US07034015B2
Preparation 35: tert-Butyl [2-(2-bromophenyl)ethyl](methyl)carbamate (Compound 435)
A solution of tert-butyl [2-(2-bromophenyl)ethyl]carbamate (810 mg, 2.7 mmol) in dry THF (2.0 mL) was transferred to a flask with a suspension of sodium hydride (65 mg, 2.7 mmol) in dry THF (2.0 mL) under an atmosphere of argon. The mixture was stirred for 15 min at room temperature and 10 min at 60° C. Iodomethane (0.19 mL, 2.97 mmol) was added with a syringe. After 4 h the reaction mixture was poured into water and extracted with EtOAc (×3). The organic phases were combined and washed with brine and dried with MgSO4. The crude product was purified by chromatography eluting with petroleum ether/EtOAc 10:1 to afford the title compound as a colourless oil.

reactant | tert-butyl [2-(2-bromophenyl)ethyl]carbamate | 2.7 mmol, 810 mg | BrC1=C(C=CC=C1)CCNC(OC(C)(C)C)=O | C13H18BrNO2
reactant | sodium hydride | 2.7 mmol, 65 mg | [H-].[Na+]
reactant | Iodomethane | 2.97 mmol, 0.19 mL | IC | CH3I
reactant | water | O | H2O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | tert-Butyl [2-(2-bromophenyl)ethyl](methyl)carbamate | BrC1=C(C=CC=C1)CCN(C(OC(C)(C)C)=O)C | C14H20BrNO2
